US06995144B2
After adding 191 mg of 3-benzyloxycarbonyl-7-oxo-3-azabicyclo[4.3.0]nonane, 16 mg of palladium acetate and 104 mg of BINAP (2,2′-bis(diphenylphosphino)-1,1′-binaphthyl) to 3 ml of toluene under a nitrogen atmosphere, the mixture was stirred for 15 minutes, and then 245 mg of o-bromofluorobenzene, 134 mg of sodium tert-butoxide and 6 ml of toluene were added and the mixture was stirred overnight at 100° C. Saturated aqueous ammonium chloride solution was added to the reaction solution and extraction was performed with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by NH silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain 133 mg of 3-benzyloxycarbonyl-8-(2-fluorophenyl)-7-oxo-3-azabicyclo[4.3.0]nonane.

reactant | 3-benzyloxycarbonyl-7-oxo-3-azabicyclo[4.3.0]nonane | 191 mg | C(C1=CC=CC=C1)OC(=O)N1CC2CCC(C2CC1)=O | C16H19NO3
reactant | BINAP | 104 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | o-bromofluorobenzene | 245 mg | BrC1=C(C=CC=C1)F | C6H4BrF
reactant | sodium tert-butoxide | 134 mg | CC(C)([O-])C.[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | palladium acetate | 16 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 3-benzyloxycarbonyl-8-(2-fluorophenyl)-7-oxo-3-azabicyclo[4.3.0]nonane | 133 mg | C(C1=CC=CC=C1)OC(=O)N1CC2CC(C(C2CC1)=O)C1=C(C=CC=C1)F | C22H22FNO3
